US07964608B2
7-Methoxy-1-(4-methyl-cyclohexyl)-3-m-tolyl-1H-pyrimido[5,4-c]quinoline-2,4-dione (135 mg) was prepared from 8-methoxy-4-(4-methyl-cyclohexylamino)-quinoline-3-carboxylic acid ethyl ester (0.29 mmol) and 1-isocyanato-3-methyl-benzene (0.44 mmol) following general procedure C. LCMS: m/z 430 [M+1]+.

reactant | 8-methoxy-4-(4-methyl-cyclohexylamino)-quinoline-3-carboxylic acid ethyl ester | 0.29 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCC(CC1)C)OC | C20H26N2O3
reactant | 1-isocyanato-3-methyl-benzene | 0.44 mmol | N(=C=O)C1=CC(=CC=C1)C | C8H7NO
product | 7-Methoxy-1-(4-methyl-cyclohexyl)-3-m-tolyl-1H-pyrimido[5,4-c]quinoline-2,4-dione | 135 mg | COC1=CC=CC=2C3=C(C=NC12)C(N(C(N3C3CCC(CC3)C)=O)C=3C=C(C=CC3)C)=O | C26H27N3O3
